US07402684B2
3-(4-Benzyloxy-phenyl)-pyridine:
To a solution of 4-benzyloxyphenylboronic acid (1.48 g, 6.5 mmol) in DME (10 mL) was added 3-iodo: pyridine (1.03 g, 5.0 mmol) in DME (8 mL), potassium carbonate (2.0 g, 15 mmol) in 1:1 mixture of EtOH:water (3 mL), palladium(II) acetate (56 mg 0.25 mmol), and triphenyl phosphine (202 mg, 1.0 mmol) in DME (2 mL). The resulting mixture was warmed up to 90° C. and stirred for 16 h at that temperature. After cooling to rt, reaction mixture was poured into ice-water 200 mL) and product was extracted with EtOAc, washed with brine, filtered through pad of Celite and concentrated to a yellow solid. The crude mixture was purified by silica gel flash chromatography (20% EtOAc/Hexane) to obtain the title product as yellow solid (1.2 g, 92%).

reactant | 4-benzyloxyphenylboronic acid | 6.5 mmol, 1.48 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | pyridine | 5.0 mmol, 1.03 g | N1=CC=CC=C1 | C5H5N
reactant | potassium carbonate | 15 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenyl phosphine | 1.0 mmol, 202 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | palladium(II) acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 3 mL | O | H2O
solvent | EtOH | CCO | C2H6O
product | 3-(4-Benzyloxy-phenyl)-pyridine | 1.2 g, 92% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=NC=CC1 | C18H15NO
